US08791132B2
A mixture of 9-chloro-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole and 7-chloro-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (2.00 g, 8.5 mmol) was dissolved in DMF (15 mL). Sodium hydride (1.708 g, 42.71 mmol) was added at 0-10° C. and stirred at the same temperature for 15 min., 3-(2-methyloxiran-2-yl)pyridine (2.309 g, 17.08 mmol) was added dropwise into the reaction mixture and the mixture was stirred at RT for 16 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water (100 mL) and extract with EtOAc (300 mL). The organic layer was washed with water (5×100 mL). The organic layer dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the crude. The crude product was purified by reverse phase column chromatography to obtain 35 mg of 1-(9-chloro-2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol. 1H NMR (CD3OD, freebase) δ (ppm): 8.46 (s, 1H), 8.34 (d, 1H), 7.82 (d, 1H), 7.29 (t, 1H), 6.87 (d, 1H), 6.77 (d, 1H), 4.22 (dd, 2H), 3.99 (q, 2H), 2.73 (m, 4H), 2.5 (s, 3H), 2.3 (s, 3H), 1.66 (s, 3H). Separation by chiral HPLC provided enantiomers II-124a-b.

reactant | 9-chloro-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | ClC=1C=2C3=C(NC2C=CC1C)CCN(C3)C | C13H15ClN2
reactant | 7-chloro-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 8.5 mmol, 2.00 g | ClC=1C(=CC=2C3=C(NC2C1)CCN(C3)C)C | C13H15ClN2
reactant | Sodium hydride | 42.71 mmol, 1.708 g | [H-].[Na+]
reactant | 3-(2-methyloxiran-2-yl)pyridine | 17.08 mmol, 2.309 g | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(9-chloro-2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-3-yl)propan-2-ol | 35 mg | ClC=1C=2C3=C(N(C2C=CC1C)CC(C)(O)C=1C=NC=CC1)CCN(C3)C | C21H24ClN3O
